US07091214B2
Ethanolic hydrochloric acid (17.68 mL of 4.25 M) was added to a solution of tert-butyl 4-{[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate (9.71 g, 18.8 mmol) in anhydrous ethanol, and the reaction was heated at reflux for two hours. A precipitate formed, and the reaction was allowed to cool to ambient temperature. The solid was isolated by filtration, washed with a small volume of cold ethanol, and dried under reduced pressure to provide 7.1 g of 2-ethoxymethyl-1-(piperidin-4-ylmethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine trihydrochloride as an off-white solid, mp>250° C.

reactant | hydrochloric acid | 4.25 M, 17.68 mL | Cl | ClH
reactant | tert-butyl 4-{[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidine-1-carboxylate | 18.8 mmol, 9.71 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)COCC)C=2C=NC=CC2 | C29H36N6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxymethyl-1-(piperidin-4-ylmethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine trihydrochloride | 7.1 g | Cl.Cl.Cl.C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=2C=NC=CC2)N)N1)CC1CCNCC1 | InChI=1S/C24H28N6O.3ClH/c1-2-31-15-21-29-22-23(30(21)14-16-7-10-26-11-8-16)19-6-5-17(12-20(19)28-24(22)25)18-4-3-9-27-13-18;;;/h3-6,9,12-13,16,26H,2,7-8,10-11,14-15H2,1H3,(H2,25,28);3*1H
